US06313122B1
Preparation of N-(4-Methoxyphenyl)-2-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)benzamide
A pressure tube was charged with N-(4-methoxyphenyl)-2-aminobenzamide (500 mg, 2.07 mmol), 2,3-napthalenedicarboxylic anhydride (409 mg, 2.07 mmol), and tetrahydrofuran (10 mL). The resultant slurry was then placed in a bath heated to 110° C. for 16 h. After cooling to ambient temperature and concentration to ½ of the solution volume, the product was triturated with 50% hexanes/50% ethyl acetate and the resulting solid collected by filtration. Recrystallization from hexanes/ethyl acetate yielded 476 mg (55%) of the title compound.

reactant | N-(4-methoxyphenyl)-2-aminobenzamide | 2.07 mmol, 500 mg | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1)N)=O | C14H14N2O2
reactant | 2,3-napthalenedicarboxylic anhydride | 2.07 mmol, 409 mg | C1=C2C(=CC3=CC=CC=C13)C(=O)OC2=O | C12H6O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-(4-Methoxyphenyl)-2-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)benzamide | 476 mg, 55% | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1)N1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)=O | C26H18N2O4
